US06878722B2
Step ii) To a solution of cyclopropylsulfonamide (6.0 g, 50.0 mmol) in CH2Cl2 (50 mL) was added BOC2O(13.0 g, 59.0 mmol), Et3N (7.5 mL, 74 mmol), and 4-DMAP (0.30 g, 2.5 mmol). The reaction mixture was stirred overnite at rt, diluted with EtOAc (300 mL), partitioned with 1 N HCl (3×100 mL), dried over MgSO4 and concentrated in vacuo to afford 9.3 g (85%) of cyclopropylsulfonylamine tert-butylcarbamate as a white solid having identical data to its preparation in Step IIc.

reactant | cyclopropylsulfonamide | 50.0 mmol, 6.0 g | C1(CC1)S(=O)(=O)N | C3H7NO2S
reactant | BOC2O | 59.0 mmol, 13.0 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | Et3N | 74 mmol, 7.5 mL | CCN(CC)CC | C6H15N
reactant | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-DMAP | 2.5 mmol, 0.30 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | cyclopropylsulfonylamine tert-butylcarbamate | 9.3 g, 85% | C(C)(C)(C)NC(O)=O.C1(CC1)S(=O)(=O)N | InChI=1S/C5H11NO2.C3H7NO2S/c1-5(2,3)6-4(7)8;4-7(5,6)3-1-2-3/h6H,1-3H3,(H,7,8);3H,1-2H2,(H2,4,5,6)
